US05006549
3-Methyl-4-hydroxy-5,7-di-tert-butylbenzofuran-2-carboxylic acid (9)
Ethyl 3-methyl-4-hydroxy-5,7-di-tert-butylbenzofuran-2-carboxylate (0.475 g, 1.43 mmol) was refluxed in a solution of KOH (0.241 g, 4.29 mmol) in water (10 mL) and methanol (2 mL) for two hours. Acidification of the cooled mixture led to precipitation of the product. 3-Methyl-4-hydroxy-5,7-di-tert-butylbenzofuran-2-carboxylic acid, compound 9, was collected by filtration and vacuum dried. This material was decarboxylated without further purification. mp 241°-243° C.; 1H NMR (DMSO-d6) d 1.40 (18H, s), 2.71 (3H, s), 7.18 (1H, s), 8.35 (1H, s).

reactant | Ethyl 3-methyl-4-hydroxy-5,7-di-tert-butylbenzofuran-2-carboxylate | 1.43 mmol, 0.475 g | CC1=C(OC2=C1C(=C(C=C2C(C)(C)C)C(C)(C)C)O)C(=O)OCC | C20H28O4
reactant | KOH | 4.29 mmol, 0.241 g | [OH-].[K+]
solvent | water | 10 mL | O | H2O
solvent | methanol | 2 mL | CO | CH4O
product | 3-Methyl-4-hydroxy-5,7-di-tert-butylbenzofuran-2-carboxylic acid | CC1=C(OC2=C1C(=C(C=C2C(C)(C)C)C(C)(C)C)O)C(=O)O | C18H24O4
